US08293768B2
Synthesis of 3-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)-N-methylbenzamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with methylamine monohydrochloride to react with 3-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 85% yield: 1H NMR (300 MHz, CDCl3) δ 7.73-7.62 (m, 2H), 7.42-7.34 (m, 2H), 6.32 (br s, 1H), 4.51 (s, 2H), 4.13-4.04 (m, 2H), 3.49-3.41 (m, 2H), 2.97 (d, J=4.8 Hz, 3H), 2.60 (s, 3H), 2.45 (s, 3H); MS (ES+) m/z 373.1 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | methylamine monohydrochloride | Cl.CN
reactant | 3-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC=1C=C(C(=O)O)C=CC1)=O)C | C17H17N3O4S
product | 3-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)-N-methylbenzamide | 85% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC=1C=C(C(=O)NC)C=CC1)=O)C | C18H20N4O3S
